Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M with a past medical history 
significant for bronchiectasis, COPD, and hiatal hernia 
presenting with dyspnea at rest x 1 day preceded by sore throat 
x 5 days, cough x 3 days, and runny nose x 3 days. He was ___ his 
usual state of health until developing a sore throat on ___. On 
___ night, he developed bad nasal congestion and a cough 
productive of clear sputum. On ___ he began feeling 
dyspneic on exertion (after walking 100 ft, usually not 
walking-limited). He stayed ___ bed on ___ to recover but became 
increasingly dyspneic, and by late afternoon was gasping for air 
and coughing up greenish sputum. He called his pulmonologist, 
who told him to present to the ED for further evaluation.

___ the ED, initial vitals were T 98, HR 62, BP 172/87, RR 26, O2 
sat. 96% RA.

Initial physical exam was notable for lungs with diffuse 
rhonchorous sounds and wheezing.

Labs were notable for WBC 11.7, Hgb 12.0, Na 131, Cr 1.1, UA 
with 100 protein, 2RBC, 2WBC, and few bacteria, lactate 1.4

CXR showed: Large hiatal hernia. Patchy bibasilar opacities 
similar to previous studies, which "may reflect a combination of 
bronchiectasis, chronic airway disease, and recurrent 
aspiration." Trace bilateral pleural effusions.

He was given albuterol nebs, vancomycin, and cefepime, upon 
which he felt much better. However, O2 sat. dropped to 92% 
(recent baseline 95-100% RA).

On the floor this morning, Mr. ___ was no longer feeling 
short of breath at rest. He continues to deny fever, chills, or 
night sweats.

 
Past Medical History:
- Bronchiectasis on serevent and salmeterol
- Hiatal hernia on pantoprazole
- H/o pseudomonas pneumonia ___ yrs ago
- Recurrent sinusitis s/p sinus surgery ___ yrs ago
- Coronary artery disease c/b MI ___ yrs ago s/p CABG ___ yrs 
ago
- Tympanic membrane perforation  
- Eustachian tube dysfunction  
- Otitis externa and media infection  
- Epistaxis   
- Hyperlipidemia
 
Social History:
___
Family History:
Father died of aortic stenosis
Mother died of cancer
Brothers x2 have cardiac problems
Sons x3 all healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T 98.0, BP 114/71, HR 58, RR 23, O2 sat. 91% RA
General: Alert, oriented, sitting comfortably ___ his chair 
HEENT: Normocephalic, atraumatic. Sclerae anicteric, MMM, 
oropharynx clear, EOMI, PERRL  
Neck: Neck supple, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Diffuse wheezes and rhonchi throughout, no crackles, good 
air movement 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding
Ext: No edema, erythema, or warmth of either leg bilaterally.  
Neuro: Non-focal exam. Getting up and sitting back down with 
ease.

DISCHARGE PHYSICAL EXAM
=======================
Vitals: T 97.8, BP 130-140s/50-70s, HR 50-70s, RR 20, O2 sat. 
92-94% General: Alert, oriented, sitting comfortably ___ his 
chair 
HEENT: Normocephalic, atraumatic. Sclerae anicteric, MMM, 
oropharynx clear, EOMI, PERRL
Neck: Neck supple, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Mild diffuse wheezes and rhonchi throughout, 
mid-inspiratory bibasilar crackles, good air movement 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding
Ext: No edema, erythema, or warmth of either leg bilaterally.  
Neuro: Non-focal exam. Getting up and sitting back down with 
ease.
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:25PM   GLUCOSE-102* UREA N-24* CREAT-1.1 SODIUM-131* 
POTASSIUM-4.3 CHLORIDE-95* TOTAL CO2-23 ANION GAP-17
___ 01:23AM   LACTATE-1.4
___ 09:25PM   WBC-11.7*# RBC-4.33* HGB-12.0* HCT-36.9* 
MCV-85 MCH-27.7 MCHC-32.5 RDW-15.6* RDWSD-49.0*
___ 09:25PM   PLT COUNT-152
___ 09:25PM   ___ PTT-30.3 ___
___ 03:59AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

NOTABLE LABS
============
___ 11:45PM BLOOD CK(CPK)-178
___ 01:20PM BLOOD CK-MB-6 cTropnT-0.02* proBNP-4869*
___ 11:45PM BLOOD CK-MB-5 cTropnT-0.01

DISCHARGE LABS
==============
___ 07:08AM BLOOD WBC-8.3 RBC-4.13* Hgb-10.7* Hct-35.3* 
MCV-86 MCH-25.9* MCHC-30.3* RDW-15.8* RDWSD-49.2* Plt ___
___ 07:08AM BLOOD Glucose-94 UreaN-25* Creat-1.2 Na-133 
K-4.4 Cl-97 HCO3-21* AnGap-19
___ 07:08AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.1

MICROBIOLOGY
============
GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS.
 LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 
Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 
FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
LEGIONELLA URINE ANTIGEN: NEGATIVE

IMAGING
=======
___ CXR
Large hiatal hernia.  Patchy bibasilar opacities, similar to the 
previous 
studies, which may reflect a combination of bronchiectasis, 
chronic airways disease, and recurrent aspiration.  Trace 
bilateral pleural effusions.

___ CT CHEST WITH CONTRAST
1. Moderate to severe bronchial wall thickening and 
bronchiectasis with airway plugging throughout both lungs, 
greater ___ the lower lobes, overall progressed with findings 
suggestive of recurrent airway infection/ inflammation, 
potentially related to aspiration. 
2. Very large hiatal hernia, progressed from prior, with the 
majority of the stomach being located within the chest.  This 
likely predisposes the patient to aspiration. 
3. Other baseline findings, including complex left upper pole 
renal cyst 
measuring up to 8.1 cm, as described above. 
 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a past medical history 
significant for bronchiectasis, COPD, and hiatal hernia 
presenting with dyspnea at rest x 1 day preceded by sore throat, 
cough, and rhinorrhea. He had a CXR that demonstrated patchy 
bibasilar opacities. Initially with concern for possible 
pneumonia, he was given vanc/cefepime while ___ the ED. 

#Dyspnea: Clinically, he appeared well, so antibiotics were held 
and he was monitored on the floor. Troponin was 0.02 on 
admission and trended down to 0.01. EKG showed no ischemic 
changes. He had an elevated BNP but with no pulmonary edema on 
CT chest and no clinical signs of volume overload. He was given 
chest ___ and standing ipratropium/albuterol nebulizers. CT chest 
was performed that showed bronchiectasis ___ both lungs that 
appeared progressed from prior images and worsening hiatal 
hernia. Flu swab was negative. Sputum culture found gram 
positive cocci and ___ consultation with infectious diseases the 
patient was given a 5 day course of azithromycin for presumed 
bacterial infection. Ambulatory saturation on discharge showed 
92%. Blood cultures remained negative for any growth. He will 
need close follow up with his pulmonologist. 

#Hiatal hernia: Progression seen on CT. Continued pantoprazole

#CAD s/p CABG and stent placement and hyperlipidemia: Continue 
home aspirin, statin, and metoprolol. 

#Hypertension: Continued on home losartan.

======================
TRANSITIONAL ISSUES
- NEW MEDICATION: AZITHROMYCIN 4 days 250mg to complete a 5 day 
course
- Follow up with outpatient pulmonologist regarding worsening 
bronchiectasis
- Follow up with infectious diseases regarding recurrent, 
resistant sinopulmonary infections
- Contact: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB 
2. Atorvastatin 40 mg PO QPM 
3. Ezetimibe 10 mg PO DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Losartan Potassium 25 mg PO DAILY 
6. Pantoprazole 20 mg PO Q12H 
7. Metoprolol Tartrate 100 mg PO BID 
8. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth Daily Disp #*4 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Ezetimibe 10 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Metoprolol Tartrate 100 mg PO BID  
8.  Pantoprazole 20 mg PO Q12H  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB  
10.  Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Upper Respiratory infection

Secondary: 
Coronary artery disease
Bronchiectasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
for evaluation of your shortness of breath. You were given 
nebulizers and were given one dose of antibiotics ___ the 
emergency department. When you were admitted to the floor we 
monitored you without giving antibiotics. We took samples of 
your sputum to grow for culture. You had a CT scan that did not 
show signs of a new infection causing your symptoms. Your 
shortness of breath improved, and you were discharged on a 
five-day course of Azithromycin. This was started while you were 
___ the hospital.

You should follow up with your pulmonary doctor.

If you develop worsening shortness of breath, fevers, chills, or 
worsening cough, you should call your doctor or return to the 
emergency room. 

It was a pleasure taking care of you. We wish you the best ___ 
your health.

Sincerely.
Your ___ Team
 
Followup Instructions:
___